US04324786
Preparation of 3-hydroxy-1-cinnamoyl-1,2-dihydro-pyrido[2,3-e]-as-triazine
7.5 g (0.05 moles) of 3-hydroxy-1,2-dihydro-pyrido[2,3-e]-as-triazine are reacted with 17 g (0.102 moles) of cinnamoyl chloride in 150 ml of acetonitrile as described in Example 6. 9.0 g (65%) of the title compound are obtained; m.p.: 221°-223° C.

reactant | 3-hydroxy-1,2-dihydro-pyrido[2,3-e]-as-triazine | 0.05 moles, 7.5 g | OC=1NNC2=C(N1)N=CC=C2 | C6H6N4O
reactant | cinnamoyl chloride | 0.102 moles, 17 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 3-hydroxy-1-cinnamoyl-1,2-dihydro-pyrido[2,3-e]-as-triazine | 9.0 g, 65% | OC=1NN(C2=C(N1)N=CC=C2)C(C=CC2=CC=CC=C2)=O | C15H12N4O2
